US04847263
6.1. 2-(4-Chlorophenyl)-6-methoxyimidazo[1,2-a]pyridine
A mixture of 1.3 g (10.5 mmol) of 5-methoxy-2-pyridinamine, 2.44 g (1eq) of α-bromo-4-chloroacetophenone and 1.76 g (2eq) of sodium bicarbonate in 20 ml of 95% strength alcohol is heated under reflux for 4 h 30 min. under argon. The mixture is evaporated to dryness and the residue taken up between CH2Cl2 and H2O, followed by washing, drying and evaporation. The product is purified by chromatography and then crystallized in ether. M.p. 148°-9° C.

reactant | 5-methoxy-2-pyridinamine | 10.5 mmol, 1.3 g | COC=1C=CC(=NC1)N | C6H8N2O
reactant | α-bromo-4-chloroacetophenone | 2.44 g, 1eq | C1=CC(=CC=C1C(=O)CBr)Cl | C8H6BrClO
reactant | sodium bicarbonate | 1.76 g, 2eq | C([O-])(O)=O.[Na+]
product | 2-(4-Chlorophenyl)-6-methoxyimidazo[1,2-a]pyridine | ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)OC)C1 | C14H11ClN2O
